US08557826B2
Add LDA (2M in heptane/THF, 3.4 mL, 6.9 mmol) to a solution of methyl acetate (0.6 mL, 6.9 mmol) in THF (5 mL) dropwise via a syringe at −78° C. After stirring at −78° C. for 30 min, add a solution of CITi(Oi-Pr)3 (1.8 mL, 7.6 mmol) in THF (5 mL) dropwise. After stirring for another 30 min, add (R)—N-(1-(3-bromophenyl)ethylidene)-2-methylpropane-2-sulfinamide (1.03 g, 3.4 mmol) in THF (2 mL) dropwise via a syringe. After 3 h add a saturated aqueous solution of NH4Cl (10 eq) and allow the mixture to warm to room temperature. Dilute the mixture with H2O (50 mL) and stir for 10 min, then partition the mixture between H2O (50 mL) and EtOAc (50 mL). Collect the organic layer and extract the aqueous layer with EtOAc (3×50 mL). Wash the combined organic extracts with brine, then dry (MgSO4), filter and concentrate to give a crude product. Chromatograph the crude product on a silica gel column and elute with EtOAc/hexanes to afford (S)-methyl 3-(3-bromophenyl)-3-((R)-1,1-dimethylethylsulfinamido)butanoate.

reactant | LDA | 6.9 mmol, 2M, 3.4 mL | [Li+].CC(C)[N-]C(C)C
reactant | methyl acetate | 6.9 mmol, 0.6 mL | C(C)(=O)OC | C3H6O2
reactant | (R)—N-(1-(3-bromophenyl)ethylidene)-2-methylpropane-2-sulfinamide | 3.4 mmol, 1.03 g | BrC=1C=C(C=CC1)C(C)=N[S@](=O)C(C)(C)C | C12H16BrNOS
reactant | NH4Cl | 10 eq | [NH4+].[Cl-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | H2O | 50 mL | O | H2O
product | (S)-methyl 3-(3-bromophenyl)-3-((R)-1,1-dimethylethylsulfinamido)butanoate | BrC=1C=C(C=CC1)[C@@](CC(=O)OC)(C)N[S@](=O)C(C)(C)C | C15H22BrNO3S
